US04971963
3-[(2-Amidinomethylthio-1,3,4-thiadiazol-5-yl) thiomethyl]-7β-[2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid:
To a solution containing 906 mg of sodium 3-hydroxymethyl-7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-trityloxyiminoacetamido]-3-cephem-4-carboxylate and 309 mg of 2-amidinomethylthio -5-mercapto-1,3,4-thiadiazole in 7 ml of DMF was added 1.01 g of ethyl o-phenylenephosphate under ice-cooling and stirring. The reaction mixture was stirred at room temperature for 4 hours and subjected to a column chromatography on silica gel (100 g), being washed with acetone and eluted with acetone/water (9:1). The eluate was concentrated to dryness under reduced pressure, and there was added 20 ml of formic acid. The mixture was stirred at room temperature for 16 hours and then distilled to remove formic acid. To the residue was added a mixture of water and THF. The solution was washed with ethyl acetate, concentrated under reduced pressure and then subjected to a column chromatography on XAD-II (140 ml), being washed with water and eluted with 20% aqueous ethanol. The eluate was concentrated to 10 ml and the resultant precipitate was collected by filtration to give 160 mg of the title compound as pale yellow crystals.

reactant | sodium 3-hydroxymethyl-7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-trityloxyiminoacetamido]-3-cephem-4-carboxylate | 906 mg | OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O.[Na+]
reactant | 2-amidinomethylthio -5-mercapto-1,3,4-thiadiazole | 309 mg | C(N)(=N)CSC=1SC(=NN1)S | C4H6N4S3
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3-[(2-Amidinomethylthio-1,3,4-thiadiazol-5-yl) thiomethyl]-7β-[2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid | 160 mg | C(N)(=N)CSC=1SC(=NN1)SCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/O)\C=2N=C(SC2)N)=O)=O | C17H17N9O5S5
